*bgr.sp

.subckt bgr VDD VSS Vref

.prot
.lib "./../../Tool/cic018.l" tt
.temp 27
.unprot
.option post

*.param ww = 10u
*.param ll = 0.8u

*.option captab


*main

M1 Vamp_ip Vamp_out Vdd Vdd p_18 w=95u l=6u
M2 Vamp_in Vamp_out Vdd Vdd p_18 w=95u l=6u
M3 Vamp_ref Vamp_out Vdd Vdd p_18 w=95u l=6u

R1 Vamp_in Va 15k
R2 Vamp_ref Vb 275k

Q1 Vss Vss Vamp_ip Vss pnp_v50x50 m=1
Q2 Vss Vss Va Vss pnp_v50x50 m=4
Q3 Vss Vss Vb Vss pnp_v50x50 m=4







*2-Stage OPA

M11 V1a V1a Vdd Vdd p_18 w=4.5u l=1u
M12 V1b V1a Vdd Vdd p_18 w=4.5u l=1u
M13 V1a Vamp_ip V1c Vss n_18 w=1.5u l=1u
M14 V1b Vamp_in V1c Vss n_18 w=1.5u l=1u
M15 V1c Vbias Vss Vss n_18 w=1.5u l=1u

M16 V1d V1a Vdd Vdd p_18 w=4.5u l=1u
M17 Vamp_out V1b Vdd Vdd p_18 w=4.5u l=1u
M18 V1d V1d V1e Vss n_18 w=0.8u l=1u
M19 Vamp_out V1d V1f Vss n_18 w=0.8u l=1u
M20 V1e V1e Vss Vss n_18 w=0.8u l=1u
M21 V1f V1e Vss Vss n_18 w=0.8u l=1u

C11 V1b Vamp_out 1p
C12 Vamp_out Vss 1p

*Vdd Vdd 0 1.8 1
*Vdd Vdd GND pwl(0 0 10u 0 100u 2)
*Vss Vss 0 0 

*Vbias_t Vbias_t Vss 0.45
*Vdiff Vdiff Vss 0 1
*VBS VBS Vss 0.7
*E1 Vampin VBS Vdiff Vss 0.5
*E2 Vampip VBS Vdiff Vss -0.5



*Lcmfb Vamp_out2 Vamp_out 1E+100
*Ccmfb Vamp_out Vac 1E+100
*Vac Vac Vss ac=1






*Constant-gm core with start-up circuit

M31 Vbias V3a Vdd Vdd p_18 w=5u l=1u m=1
M32 V3a V3a Vdd Vdd p_18 w=5u l=1u m=1
M33 Vbias Vbias Vss Vss n_18 w=5u l=1u m=1
M34 V3a Vbias V3b Vss n_18 w=5u l=1u m=2

M35 V3c Vss Vdd Vdd p_18 w=0.25u l=10u m=1
M36 V3d Vss V3c Vdd p_18 w=0.25u l=10u m=1
M37 V3d Vbias Vss Vss n_18 w=40u l=10u m=1

M38 V3a V3d Vss Vss n_18 w=1u l=0.5u m=1


R31 V3b Vss 8k



Ec Vref Vss Vamp_ref Vss 1





*Analysis

*.op
*.tf V(Vamp_out) Vdiff

*.tf V(Vamp_ref) Vdd
*.dc Vdd 0 1.98 0.01
*.dc temp -40 125 0.1 sweep Vdd 1.62 1.98 0.18
*.ac dec 10 1 100G

*.probe Vdb(Vamp_ref) Vp(Vamp_ref)
*.probe dc deriv('V(Vamp_ref)')



*.tran 0.01u 110u


*.tf V(Vamp_out2) Vac
*.pz V(Vamp_out2) Vac
*.measure AC gain_db MAX Vdb(Vamp_out2)
*.measure AC Bandwidth when Vdb(Vamp_out2)='gain_db-3'
*.measure AC UGB when Vdb(Vamp_out2)=0
*.measure AC min_phase MIN vp(Vamp_out2) from=1 to=UGB
*.measure AC phase_margin = param ('180+min_phase')


*.alter
*.lib "./../../Tool/cic018.l" ff
*.alter
*.lib "./../../Tool/cic018.l" ss


.ends

